US06034121
A solution of 4-bromophenol (20 g) in dry pyridine (75 ml) was cooled to 0° C. and heptanoyl chloride (18.79 ml) was added dropwise. The mixture was stirred at room temperature for 21/2 hours. Water (10 ml) was added to dissolve the precipitate and the mixture then evaporated under reduced pressure. The residue was dissolved in diethyl ether, washed with water, hydrochloric acid, water, aqueous saturated sodium hydrogen carbonate, water, dried and evaporated under reduced pressure to give 4-bromophenyl heptanoate.

reactant | 4-bromophenol | 20 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | heptanoyl chloride | 18.79 ml | C(CCCCCC)(=O)Cl | C7H13ClO
reactant | Water | 10 ml | O | H2O
solvent | pyridine | 75 ml | N1=CC=CC=C1 | C5H5N
product | 4-bromophenyl heptanoate | C(CCCCCC)(=O)OC1=CC=C(C=C1)Br | C13H17BrO2
